US05962706
Process according to claim 8, wherein said cyclopentenol is reacted with methyl orthoacetate in the presence of pyvalic acid to provide (+)-methyl (1R)-2-pentyl-2-cyclopentene-1-acetate.

reactant | cyclopentenol | C1(=CCCC1)O | C5H8O
reactant | methyl orthoacetate | C(C)(OC)([O-])[O-]
product | (+)-methyl (1R)-2-pentyl-2-cyclopentene-1-acetate | C(CCCC)C=1[C@H](CCC1)CC(=O)OC | C13H22O2
